US04833242
16.8 g of 4-acetylpyridine semicarbazone was added to 47 ml of thionyl chloride under ice-cooling, and, after allowing to warm to room temperature, the mixture was stirred for 1 hour. 200 ml of chloroform was added to the reaction mixture, and the resulting mixture was added dropwise to an aqueous solution of sodium carbonate cooled with ice. The chloroform layer was separated, washed with water, dried and concentrated to obtain 3.4 g of 4-(1,2,3-thiadiazol-4-yl)pyridine. Melting point: 121°-123° C.

reactant | 4-acetylpyridine semicarbazone | 16.8 g | C(C)(C1=CC=NC=C1)=NNC(=O)N | C8H10N4O
reactant | thionyl chloride | 47 ml | S(=O)(Cl)Cl | Cl2OS
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(1,2,3-thiadiazol-4-yl)pyridine | 3.4 g | S1N=NC(=C1)C1=CC=NC=C1 | C7H5N3S
